subckt inverter (in out vdd vss bp bn)
parameters mult=1

xM1 out in vdd bp mc_pmos_lvt w=mult*2*PWmin l=PLmin
xM2 out in vss bn mc_nmos_lvt w=mult*PWmin l=PLmin

ends inverter

subckt twonand (A B out vdd vss bp bn)
parameters mult=1

xM1 out A vdd bp mc_pmos_lvt w=mult*2*PWmin l=PLmin
xM2 out B vdd bp mc_pmos_lvt w=mult*2*PWmin l=PLmin
xM3 n A vss bn mc_nmos_lvt w=mult*2*PWmin l=PLmin
xM4 out B n bn mc_nmos_lvt w=mult*2*PWmin l=PLmin

ends twonand

subckt twonor (A B out vdd vss bp bn)
parameters mult=1

xM1 n A vdd bp mc_pmos_lvt w=mult*4*PWmin l=PLmin
xM2 out B n bp mc_pmos_lvt w=mult*4*PWmin l=PLmin
xM3 out A vss bn mc_nmos_lvt w=mult*PWmin l=PLmin
xM4 out B vss bn mc_nmos_lvt w=mult*PWmin l=PLmin

ends twonor

subckt threenand (A B C out vdd vss bp bn)
parameters mult=1

xM1 out A vdd bp mc_pmos_lvt w=mult*2*PWmin l=PLmin
xM2 out B vdd bp mc_pmos_lvt w=mult*2*PWmin l=PLmin
xM3 out C vdd bp mc_pmos_lvt w=mult*2*PWmin l=PLmin
xM4 n1 A vss bn mc_nmos_lvt w=mult*3*PWmin l=PLmin
xM5 n2 B n1 bn mc_nmos_lvt w=mult*3*PWmin l=PLmin
xM6 out C n2 bn mc_nmos_lvt w=mult*3*PWmin l=PLmin

ends threenand

subckt threenor (A B C out vdd vss bp bn)
parameters mult=1

xM1 n1 A vdd bp mc_pmos_lvt w=mult*6*PWmin l=PLmin
xM2 n2 B n1 bp mc_pmos_lvt w=mult*6*PWmin l=PLmin
xM3 out C n2 bp mc_pmos_lvt w=mult*6*PWmin l=PLmin
xM4 out A vss bn mc_nmos_lvt w=mult*PWmin l=PLmin
xM5 out B vss bn mc_nmos_lvt w=mult*PWmin l=PLmin
xM6 out C vss bn mc_nmos_lvt w=mult*PWmin l=PLmin

ends threenor

subckt twotofourdecoder (a0 a1 enablebar N0 N1 N2 N3 vdd vss bp bn)
parameters multinv=1 multnor=1

xinv1 a0 a0bar vdd vss bp bn inverter mult=multinv
xinv2 a1 a1bar vdd vss bp bn inverter mult=multinv

// xnand1 a0bar a1bar N0pre vdd vss bp bn twonand
// xnand2 a0 a1bar N1pre vdd vss bp bn twonand
// xnand3 a0bar a1 N2pre vdd vss bp bn twonand
// xnand4 a0 a1 N3pre vdd vss bp bn twonand

// xnor1 N0pre enablebar N0 vdd vss bp bn twonor
// xnor2 N1pre enablebar N1 vdd vss bp bn twonor
// xnor3 N2pre enablebar N2 vdd vss bp bn twonor
// xnor4 N3pre enablebar N3 vdd vss bp bn twonor

xnor1 a0 a1 enablebar N0 vdd vss bp bn threenor mult=multnor
xnor2 a0bar a1 enablebar N1 vdd vss bp bn threenor mult=multnor
xnor3 a0 a1bar enablebar N2 vdd vss bp bn threenor mult=multnor
xnor4 a0bar a1bar enablebar N3 vdd vss bp bn threenor mult=multnor

ends twotofourdecoder

subckt threetoeightdecoder (a0 a1 a2 enablebar N0 N1 N2 N3 N4 N5 N6 N7 vdd vss bp bn)
parameters multinv=1 multnand=1 multnor=1

xinv1 a0 a0bar vdd vss bp bn inverter mult=multinv
xinv2 a1 a1bar vdd vss bp bn inverter mult=multinv
xinv3 a2 a2bar vdd vss bp bn inverter mult=multinv

xnand1 a0bar a1bar a2bar N0pre vdd vss bp bn threenand mult=multnand
xnand2 a0 a1bar a2bar N1pre vdd vss bp bn threenand mult=multnand
xnand3 a0bar a1 a2bar N2pre vdd vss bp bn threenand mult=multnand
xnand4 a0 a1 a2bar N3pre vdd vss bp bn threenand mult=multnand
xnand5 a0bar a1bar a2 N4pre vdd vss bp bn threenand mult=multnand
xnand6 a0 a1bar a2 N5pre vdd vss bp bn threenand mult=multnand
xnand7 a0bar a1 a2 N6pre vdd vss bp bn threenand mult=multnand
xnand8 a0 a1 a2 N7pre vdd vss bp bn threenand mult=multnand

xnor1 enablebar N0pre N0 vdd vss bp bn twonor mult=multnor
xnor2 N1pre enablebar N1 vdd vss bp bn twonor mult=multnor
xnor3 N2pre enablebar N2 vdd vss bp bn twonor mult=multnor
xnor4 N3pre enablebar N3 vdd vss bp bn twonor mult=multnor
xnor5 N4pre enablebar N4 vdd vss bp bn twonor mult=multnor
xnor6 N5pre enablebar N5 vdd vss bp bn twonor mult=multnor
xnor7 N6pre enablebar N6 vdd vss bp bn twonor mult=multnor
xnor8 N7pre enablebar N7 vdd vss bp bn twonor mult=multnor

ends threetoeightdecoder