subckt inverter (in out vdd vss bp bn)
parameters mult=1

xM1 out in vdd bp mc_pmos_lvt w=mult*2*PWmin l=PLmin
xM2 out in vss bn mc_nmos_lvt w=mult*PWmin l=PLmin

ends inverter

subckt twonand (A B out vdd vss bp bn)
parameters mult=1

xM1 out A vdd bp mc_pmos_lvt w=mult*2*PWmin l=PLmin
xM2 out B vdd bp mc_pmos_lvt w=mult*2*PWmin l=PLmin
xM3 n A vss bn mc_nmos_lvt w=mult*2*PWmin l=PLmin
xM4 out B n bn mc_nmos_lvt w=mult*2*PWmin l=PLmin

ends twonand

subckt twonor (A B out vdd vss bp bn)
parameters mult=1

xM1 n A vdd bp mc_pmos_lvt w=mult*4*PWmin l=PLmin
xM2 out B n bp mc_pmos_lvt w=mult*4*PWmin l=PLmin
xM3 out A vss bn mc_nmos_lvt w=mult*PWmin l=PLmin
xM4 out B vss bn mc_nmos_lvt w=mult*PWmin l=PLmin

ends twonor

subckt threenand (A B C out vdd vss bp bn)
parameters mult=1

xM1 out A vdd bp mc_pmos_lvt w=mult*2*PWmin l=PLmin
xM2 out B vdd bp mc_pmos_lvt w=mult*2*PWmin l=PLmin
xM3 out C vdd bp mc_pmos_lvt w=mult*2*PWmin l=PLmin
xM4 n1 A vss bn mc_nmos_lvt w=mult*3*PWmin l=PLmin
xM5 n2 B n1 bn mc_nmos_lvt w=mult*3*PWmin l=PLmin
xM6 out C n2 bn mc_nmos_lvt w=mult*3*PWmin l=PLmin

ends threenand

subckt threenor (A B C out vdd vss bp bn)
parameters mult=1

xM1 n1 A vdd bp mc_pmos_lvt w=mult*6*PWmin l=PLmin
xM2 n2 B n1 bp mc_pmos_lvt w=mult*6*PWmin l=PLmin
xM3 out C n2 bp mc_pmos_lvt w=mult*6*PWmin l=PLmin
xM4 out A vss bn mc_nmos_lvt w=mult*PWmin l=PLmin
xM5 out B vss bn mc_nmos_lvt w=mult*PWmin l=PLmin
xM6 out C vss bn mc_nmos_lvt w=mult*PWmin l=PLmin

ends threenor

subckt twotofourdecoder (a0 a1 enablebar N0 N1 N2 N3 vdd vss bp bn)
parameters multinv=1 multnor=1

xinv1 a0 a0bar vdd vss bp bn inverter mult=multinv*1.2
xinv2 a1 a1bar vdd vss bp bn inverter mult=multinv*1.2

 xnand1 a0bar a1bar N0pre vdd vss bp bn twonand
 xnand2 a0 a1bar N1pre vdd vss bp bn twonand
 xnand3 a0bar a1 N2pre vdd vss bp bn twonand
 xnand4 a0 a1 N3pre vdd vss bp bn twonand

 xnor1 N0pre enablebar N0 vdd vss bp bn twonor mult=multnor
 xnor2 N1pre enablebar N1 vdd vss bp bn twonor mult=multnor
 xnor3 N2pre enablebar N2 vdd vss bp bn twonor mult=multnor
 xnor4 N3pre enablebar N3 vdd vss bp bn twonor mult=multnor

//xnor1 a0 a1 enablebar N0 vdd vss bp bn threenor mult=multnor
//xnor2 a0bar a1 enablebar N1 vdd vss bp bn threenor mult=multnor
//xnor3 a0 a1bar enablebar N2 vdd vss bp bn threenor mult=multnor
//xnor4 a0bar a1bar enablebar N3 vdd vss bp bn threenor mult=multnor

ends twotofourdecoder

subckt threetoeightdecoder (a0 a1 a2 enablebar N0 N1 N2 N3 N4 N5 N6 N7 vdd vss bp bn)
parameters multinv=1 multnand=1 multnor=1

xinv1 a0 a0bar vdd vss bp bn inverter mult=multinv*1.2
xinv2 a1 a1bar vdd vss bp bn inverter mult=multinv*1.2
xinv3 a2 a2bar vdd vss bp bn inverter mult=multinv*1.2

xnand1 a0bar a1bar a2bar N0pre vdd vss bp bn threenand mult=multnand
xnand2 a0 a1bar a2bar N1pre vdd vss bp bn threenand mult=multnand
xnand3 a0bar a1 a2bar N2pre vdd vss bp bn threenand mult=multnand
xnand4 a0 a1 a2bar N3pre vdd vss bp bn threenand mult=multnand
xnand5 a0bar a1bar a2 N4pre vdd vss bp bn threenand mult=multnand
xnand6 a0 a1bar a2 N5pre vdd vss bp bn threenand mult=multnand
xnand7 a0bar a1 a2 N6pre vdd vss bp bn threenand mult=multnand
xnand8 a0 a1 a2 N7pre vdd vss bp bn threenand mult=multnand

xnor1 N0pre enablebar N0 vdd vss bp bn twonor mult=multnor
xnor2 N1pre enablebar N1 vdd vss bp bn twonor mult=multnor
xnor3 N2pre enablebar N2 vdd vss bp bn twonor mult=multnor
xnor4 N3pre enablebar N3 vdd vss bp bn twonor mult=multnor
xnor5 N4pre enablebar N4 vdd vss bp bn twonor mult=multnor
xnor6 N5pre enablebar N5 vdd vss bp bn twonor mult=multnor
xnor7 N6pre enablebar N6 vdd vss bp bn twonor mult=multnor
xnor8 N7pre enablebar N7 vdd vss bp bn twonor mult=multnor

ends threetoeightdecoder